US05817691
Preparation of 2-(p-chlorophenyl)-4-[(3,4-dichlorophenyl)thio]-5-(trifluoromethyl)pyrrole-3-carbonitrile
3,4-Dichlorophenylsulfenyl chloride (1.6 g, 7.49 mmol) is added to a solution of 2-(p-chlorophenyl)-5-trifluoromethylpyrrole-3-carbonitrile (2.02 g, 7.48 mmol) and triethylamine (1.67 g, 16.5 mmol) in methylene chloride. The reaction mixture is stirred at room temperature for 24 hours and concentrated in vacuo to obtain a residue. The residue is slurried in ethyl acetate and the resultant mixture is filtered to remove solids. The filtrate is diluted with hexanes to precipitate a solid which is collected and dried to give the title product as a cream colored solid (mp 94°-97° C.).

reactant | 3,4-Dichlorophenylsulfenyl chloride | 7.49 mmol, 1.6 g | ClC=1C=C(C=CC1Cl)SCl | C6H3Cl3S
reactant | 2-(p-chlorophenyl)-5-trifluoromethylpyrrole-3-carbonitrile | 7.48 mmol, 2.02 g | ClC1=CC=C(C=C1)C=1NC(=CC1C#N)C(F)(F)F | C12H6ClF3N2
reactant | triethylamine | 16.5 mmol, 1.67 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(p-chlorophenyl)-4-[(3,4-dichlorophenyl)thio]-5-(trifluoromethyl)pyrrole-3-carbonitrile | ClC1=CC=C(C=C1)C=1NC(=C(C1C#N)SC1=CC(=C(C=C1)Cl)Cl)C(F)(F)F | C18H8Cl3F3N2S
